2191-08-18 05:54:00 Physician Resident Progress Note
TITLE:
   24 Hour Events:
   Hypocalcemic O/N despite calcium in dialysate. Repleted.
   Hypokalemic. Now on K sliding scale.
   Subjective:
   Feels better this AM. Abdominal pain much improved, though still tender
   to deep palpation diffusely. No nausea or vomiting. Breathing is
   comfortable. Back pain is chronic and unchanged.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2191-8-17**] 12:30PM
   Today is day 3
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-8-17**]
   Heparin Sodium (Prophylaxis) - [**2191-8-18**]
   Flowsheet Data as of  [**2191-8-18**] 02:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36
C (96.8
   HR: 87 (77 - 118) bpm
   BP: 119/72(81) {91/48(59) - 139/114(117)} mmHg
   RR: 15 (10 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 16 (8 - 21)mmHg
   CO/CI (Fick): (6.8 L/min) / (2.9 L/min/m2)
   SvO2: 67%
   Total In:
                                                                  1,290 mL
                                                                    480 mL
   PO:
                                                                    100 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,190 mL
                                                                    280 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                   -850 mL
   Urine:
   NG:
   Stool:
                                                                    650 mL
   Drains:
   Balance:
                                                                 -1,710 mL
                                                                  1,330 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Thin,
   No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : slight expiratory wheezes, No(t) Diminished: , No(t) Absent :
   , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, Distended, Tender: mild,
   diffuse tenderness, No(t) Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing, edema
   to ankles bilaterally
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   354 K/uL
   10.1 g/dL
   92 mg/dL
   10.5 mg/dL
   28 mEq/L
   3.7 mEq/L
   42 mg/dL
   98 mEq/L
   138 mEq/L
   32.0 %
   12.7 K/uL
        [image002.jpg]
   Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Differential-Neuts:54.0 %, Band:24.0 %, Lymph:8.0 %, Mono:0.0 %,
   Eos:2.0 % ([**8-17**], 5:15am)
                             [**2191-8-16**]  09:20 PM
                             [**2191-8-17**]  05:15 AM
                             [**2191-8-17**]  03:52 PM
                             [**2191-8-17**]  09:13 PM
                             [**2191-8-17**]  10:28 PM
                             [**2191-8-18**]  02:23 AM
   WBC
   13.2
   13.8
   12.7
   Hct
   34.0
   34.9
   33.0
   34
   32.0
   Plt
   399
   336
   354
   Cr
   11.9
   10.5
   TropT
   0.25
   Glucose
   59
   165
   129
   115
   92
   Other labs:
   PT / PTT / INR:15.4/38.4/1.4
   CK / CKMB / Troponin-T:763/11/0.25
   Lactic Acid:1.5 mmol/L (from 1.9, 4.5, 3.8, 3.4)
   LDH:247 IU/L
   CPK: 763 (from 925, 509, 333)
   PD fluid: WBC = 2055, RBC = 35, Polys = 98, Lymphs = 2, Monos = 0
   Vanco: 23.5 (ref range = [**10-24**])
   Micro:
[**2191-8-16**] 10:20 am BLOOD CULTURE
   Blood Culture, Routine (Preliminary):
      GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CHAINS.
   Aerobic Bottle Gram Stain (Final [**2191-8-17**]):
      GRAM POSITIVE COCCI.
      IN PAIRS AND CHAINS.
   Anaerobic Bottle Gram Stain (Final [**2191-8-17**]):
      GRAM POSITIVE COCCI.
      IN PAIRS AND CHAINS.
[**2191-8-16**] 9:00 am BLOOD CULTURE
   Blood Culture, Routine (Pending):
[**2191-8-16**] 11:45 am PERITONEAL FLUID
   GRAM STAIN (Final [**2191-8-16**]):
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CHAINS.
   FLUID CULTURE (Preliminary):
      BETA STREPTOCOCCUS GROUP B.    SPARSE GROWTH.
   CXR:
   [**8-16**]
   No significant change with scattered areas of lung fibrosis better
   visualized
   on a prior CT chest. No definite evidence of pneumonia or CHF on this
   limited
   study.
   CT abdomen and pelvis without contrast:
   RLL consolidation increased. Abdomenal ascites. Equivocal bowel wall
   thickening.
   Assessment and Plan
   This is a 58 yo M with ESRD on HD since [**3-8**] then PD since [**9-10**], DM2,
   HTN, diastolic CHF, and h/o MSSA peritonitis in [**6-11**], who presented to
   ED with new onset abdominal pain since this morning, associated with
   nausea/vomiting and fevers. He was admitted to the ICU after
   parcentesis was suspicious for bacterial peritonitis.
   # Bacterial peritonitis with bacteremia:  Patient presents with
   symptoms on abdominal pain, fevers, N/V and paracentesis consistent
   with bacterial peritonitis.  He was originally started on
   Vanco/Ceftazidime for treatment of infection, but ceftazidime was
   d/c
ed one day later.  Vanc trough 23.5 this AM. Gram stain and
   cultures from group B strep in pairs and chains. Sensitivities not yet
   available. Abdominal pain significantly improved. Renal is following.
   - Continue periotoneal dialysis q6h with 4.25% diasylate.
   - f/u sensitivities from [**8-16**] and blood cultures from [**8-17**].
   - f/u PD fluid cell count and culture sent this AM.
   - Vanco 2 gm daily in PD fluid, for 6h duration, beginning tomorrow.
   - Re-check vanco level tomorrow AM (them once weekly); redose vanco for
   levels below 15.
   - D/c central line.
   # Episodes of tachycardia: Assymptomatic and self-resolving. Likely a
   chronic arrhythmia; multifocal atrial tachycardia?
   - Continue to monitor.
   # Hypotension: Likely due to low vascular tone in the setting of
   sepsis, and challenges of fluid balance with PD treatments. Has
   maintained SBP above 90 without pressors or fluid bolus since coming to
   the ICU.
   - Monitor blood pressure.
   # Hypoxemia:  CXR showed no sign of infiltrates or pulmonary edema.
   Likely from COPD given + tobacco use. Slight expiratory wheezes, which
   he received albuterol for yesterday. Breathing is comfortable and
   oxygenation descent (94%) on room air.
   - Continue albuterol PRN wheezing.
   # ESRD on PD :
   - Peritoneal dialysis q6h with 4.24% diasylate.
   - Heparin with PD.
   - cont home Renagel, Calcitriol, Sensipar.
   # h/o HTN: controlled on PD. No HTN since coming to the MICU.
   # DM:  No antihyperglycemic agents on home med list.  Diet-controlled?
   - cont Gabapentin, ASA
   - Finger stick blood glucose QID
   - ISS
   # Chronic Back pain:
   - Home methadone, if BP will tolerate.
   # Depression:
   - Cont home Mirtazapine, paroxetine
   # Hyperlipidemia:
   - Cont home lipitor
   # FEN: K+ and Ca+ repleted overnight.
   - Continue to monitor electrolytes and replete when necessary.
   ICU Care
   Nutrition: Liquids and ADAT
   Glycemic Control:  ISS. Has not required it, as sugars have been well
   controlled.
   Lines:
   Presep Catheter - [**2191-8-16**] 09:03 PM
 d/c today
   PIVs x 2 from [**8-16**] and [**8-17**]
   Prophylaxis:
   DVT: SC UF Heparin
   Stress ulcer: PPI
   Communication:  ICU consent signed
   Code status: Full code
   Disposition: To medical floor today, with hopes that he will be ready
   to head home tomorrow.
   [**First Name8 (NamePattern2) 3990**] [**Last Name (NamePattern1) 3991**], MS4
   14:21